US08604024B2
Step 43A. (E)-Methyl 2-(5-fluoropicolinamido)-9-methyl-6,7-dihydro-5H-benzo[7]annulene-8-carboxylate
In a manner similar to the procedure of step 3A, methyl 2-amino-9-methyl-6,7-dihydro-5H-benzo[7]annulene-8-carboxylate from preparation J, step J1, was coupled with 5-fluoropicolinic acid to afford the titled compound of Step 43A. 1H NMR (500 HMz, chloroform-d) δ 9.82 (br. s., 1H), 8.48 (d, J=2.7 Hz, 1H), 8.36 (dd, J=8.7, 4.6 Hz, 1H), 7.73 (d, J=2.3 Hz, 1H), 7.66-7.59 (m, 2H), 7.22 (d, J=8.1 Hz, 1H), 3.83 (s, 3H), 2.57 (t, J=6.6 Hz, 2H), 2.45 (s, 3H), 2.17-2.10 (m, 4H).

reactant | methyl 2-amino-9-methyl-6,7-dihydro-5H-benzo[7]annulene-8-carboxylate | NC=1C=CC2=C(C(=C(CCC2)C(=O)OC)C)C1 | C14H17NO2
reactant | 5-fluoropicolinic acid | FC=1C=CC(=NC1)C(=O)O | C6H4FNO2
product | (E)-Methyl 2-(5-fluoropicolinamido)-9-methyl-6,7-dihydro-5H-benzo[7]annulene-8-carboxylate | FC=1C=CC(=NC1)C(=O)NC=1C=CC2=C(/C(=C(\CCC2)/C(=O)OC)/C)C1 | C20H19FN2O3
